US06069156
A mixture of methyl 3-chloroacetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate (123 mg) and morpholine (1 ml) was stirred at 50° C. for 2.5 hours. After cooled to 20° C., the reaction mixture was extracted with ethyl acetate. The organic phase was washed with 1N hydrochloric acid and water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:2) to give methyl 1-(2-chlorobenzyl)-3-morpholinoacetyl-2-propylindole-6-carboxylate (94 mg) as colorless amorphous.

reactant | methyl 3-chloroacetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate | 123 mg | ClCC(=O)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1=C(C=CC=C1)Cl)CCC | C22H21Cl2NO3
reactant | morpholine | 1 ml | N1CCOCC1 | C4H9NO
product | methyl 1-(2-chlorobenzyl)-3-morpholinoacetyl-2-propylindole-6-carboxylate | 94 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)C(CN2CCOCC2)=O)CCC)C=CC=C1 | C26H29ClN2O4
